US07842701B2
3-amino-2-[2-methyl-3-(1H-tetrazol-5-ylmethoxy)phenyl]-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of [3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]acetonitrile (65 mg), sodium azide (37 mg), ammonium chloride (30 mg) and N,N-dimethylformamide (6 ml) was stirred at 60° C. for 3 hours and then at 100° C. for 2 days. After cooling to room temperature, the reaction mixture was diluted with water, and then pH of the reaction mixture was adjusted to about 2 by adding 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water, and dried to obtain the target compound (72 mg).

reactant | [3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]acetonitrile | 65 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C(=C(OCC#N)C=CC2)C | C19H15N5O2
reactant | sodium azide | 37 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 30 mg | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-amino-2-[2-methyl-3-(1H-tetrazol-5-ylmethoxy)phenyl]-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 72 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=C(C(=CC=C2)OCC2=NN=NN2)C | C19H16N8O2
